US07608618B2
1-(6-Amino-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea
To a stirred solution of 1-(6-azido-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea (8 mg, 27 μmol) 95% EtOH (2mL) at room temperature was added concentrated NH4OH (10 μL) and 10% Pd on C (25 mg). The suspension was put through a vacuum/purge cycle three times with hydrogen gas and then held under 50 psi of hydrogen pressure and shaken on a Parr Shaker. After 2 hours the vacuum/purge cycle was repeated and the reaction held under hydrogen for another 2 hours. The suspension was then filtered through GF/F filter paper with EtOH and concentrated to a yellow film (3 mg, 41%). 1H-NMR (400 MHz, CDCl3) δ 8.19 (s, 1H), 7.61 (s, 1H), 7.56 (s, 1H), 6.83 (s, 2H), 3.95 (s, 3H), 2.33 (s, 3H). LRMS (ESI, Positive) m/e 274.2 (M+1).

reactant | 1-(6-azido-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea | 27 μmol, 2mL, 8 mg | N(=[N+]=[N-])C1=CN=CC(=N1)NC(=O)NC1=C(C=CC(=C1)C)OC | C13H13N7O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd | [Pd] | Pd
solvent | NH4OH | 10 μL | [NH4+].[OH-]
product | 1-(6-Amino-pyrazin-2-yl)-3-(2-methoxy-5-methyl-phenyl)-urea | NC1=CN=CC(=N1)NC(=O)NC1=C(C=CC(=C1)C)OC | C13H15N5O2
